US05298657
The N-methyl-3-ethyl aniline obtained in the previous step was dissolved in 250 ml anhydrous ether and to this was added (by annulation) about 400 ml of HCl (1.0M solution in ether) at ambient temperature. The resultant white precipitate was filtered through a Buchner funnel, washed with ether, and dried to afford 39.0 g (95% yield, 76% overall in 3 steps from 3-ethyl aniline) of a white solid.

reactant | N-methyl-3-ethyl aniline | CNC1=CC(=CC=C1)CC | C9H13N
reactant | HCl | 1.0M, about 400 ml | Cl | ClH
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3-ethyl aniline | 95% yield | C(C)C=1C=C(N)C=CC1 | C8H11N
